US04318913
1-Methyl-N3 -methyl-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine
A mixture of 5-[[3-[3-[(dimethylamino)methyl]phenoxy]propyl]amino]-1-methyl-1H-1,2,4-triazole-3-carbamic acid, ethyl ester (0.35 g) lithium aluminum hydride (0.13 g) and tetrahydrofuran (10 ml) was heated under reflux for 48 h. The mixture was quenched with water (0.5 ml), filtered and the filtrate was evaporated. The residue was purified by column chromatography on silica with methanol as the eluant to give the title compound as a pale yellow oil (0.1 g). TLC silica; methanol/0.88 ammonia 80:1, Rf 0.43. NMR (CDCl3) 2.78 t (1H); 3.0-3.3 m (3H); 5.47 t (1H); 5.95 t+brs (3H); 6.50 q (2H); 6.6 s (5H); 7.17 t (3H); 7.78 s (6H); 7.93 m (2H).

reactant | 5-[[3-[3-[(dimethylamino)methyl]phenoxy]propyl]amino]-1-methyl-1H-1,2,4-triazole-3-carbamic acid, ethyl ester | 0.35 g | CN(C)CC=1C=C(OCCCNC2=NC(=NN2C)NC(=O)OCC)C=CC1 | C18H28N6O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-Methyl-N3 -methyl-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 0.1 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN(C)C)NC | C16H26N6O
